US07205306B2
5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone
To 3,5-dichloro-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone (1.0 g), prepared as described in Scheme 4, and 7-chloro-5-methoxyindoline hydrochloride (0.92 g), prepared as described in U.S. Pat. No. 6,245,769, stirring in anhydrous tetrahydrofuran (25 mL, 0° C.) was added sodium bis(trimethylsilyl)amide (1.0 M in THF, 11.9 mL, dropwise). The reaction mixture was allowed to come to ambient temperature and stirred 18 hours. Water was added, and the mixture was extracted with three portions of ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over MgSO4, and concentrated. The crude product was chromatographed on silica gel using ethyl acetate/hexane (1:4) as eluent to afford the title compound (329 mg). mp 131–133° C. 1H-NMR (CDCl3) δ: 0.93 (3H, t, J=7.3 Hz), 1.83 (2H, m), 3.09 (2H, t, J=7.6 Hz), 3.35 (3H, s), 3.56 (1H, dd), 3.67 (1H, dd), 3.78 (3H, s), 4.34 (2H, t, J=7.7 Hz), 4.94 (1H, m), 6.74 (2H, s), 6.99 (1H, s). MS (APCI+) m/z 398 (M+H)+.

reactant | 3,5-dichloro-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone | 1.0 g | ClC=1C(N(C=C(N1)Cl)C(CC)COC)=O | C9H12Cl2N2O2
reactant | 7-chloro-5-methoxyindoline hydrochloride | 0.92 g | Cl.ClC=1C=C(C=C2CCNC12)OC
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[1-(methoxymethyl)propyl]-2(1H)-pyrazinone | 329 mg | ClC=1N=C(C(N(C1)C(CC)COC)=O)N1CCC2=CC(=CC(=C12)Cl)OC | C18H21Cl2N3O3
